* C:\Users\leone\Documents\repos\C2\simulaciones\checkpoint4\Buck\Regulador_buck.asc
V1 N004 0 36
L1 Vd Vo 200µ
C1 Vo 0 2.7µ
R1 Vo 0 62.5
M1 N004 V_M1 Vd Vd IRFZ44N
M2 Vd V_M2 0 0 IRFZ44N
XX1 Vcc PWM V_en 0 N001 N002 Vd N003 ir2104
V4 Vcc 0 10
V5 PWM 0 PULSE(0 5 0 1n 1n 1.22u 5u)
C2 Vcc 0 10µ
D1 Vcc N001 1N5819
R2 V_M1 N002 10
R3 V_M2 N003 10
C3 N001 Vd 22µ
V2 V_en 0 10

* block symbol definitions
.subckt ir2104 Vcc In _SD Com VB HO VS LO
D1 In Vcc Dd
D2 Com In Dd
D3 HO VB Dd
D4 VS HO Dd
D5 VS VB 25V
C2 VB HO 22p
C3 HO VS 22p Rpar=100k
S1 HO VB 4 0 SH
S2 HO VS 5 0 SL
A2 VB VS 0 0 0 0 3 0 SCHMITT Vt=8.9 Vh=.35
C1 In Com 10p Rpar=1e6
D6 Com VB 625V
D7 _SD Vcc Dd
D8 Com _SD Dd
A4 _SD Com 0 0 0 0 6 0 SCHMITT Vt=1.9 Vh=1 Trise=120n Tripdt=25n
A5 Vcc Com 0 0 0 0 7 0 SCHMITT Vt=8.9 Vh=.35
C4 _SD Com 10p Rpar=1e6
S3 LO Vcc 8 0 SH
S4 LO Com 9 0 SL
D9 LO Vcc Dd
D10 Com LO Dd
D11 Com Vcc 25V
C5 Vcc LO 22p
C6 LO Com 22p Rpar=100k
A3 3 1 0 6 7 5 4 0 AND Trise=100n Tripdt=20n
A6 7 6 0 2 0 9 8 0 AND Trise=100n Tripdt=20n
A1 In Com 0 0 0 2 1 0 SCHMITT Vt=1.9 Vh=1 Trise=1110n Tfall=100n Tripdt=50n
.model 25V D(Ron=.5 Vfwd=.5 Vrev=25.2 Roff=25e4)
.model 625V D(Ron=.5 Vfwd=.5 Vrev=625 Roff=12e6)
.model Dd D(Ron=.5 Vfwd=.5)
.model SH SW(Vt=.5 Vh=-.5 Ron=42 Ilimit=.21)
.model SL SW(Vt=.5 Vh=-.5 Ron=20 Ilimit=.36)
.ends ir2104

.model D D
.lib C:\Users\leone\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\leone\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 3m 0
.include IR2104.sub
.backanno
.end
